US04401821
(a) Methyl methylaminocrotonate
At 5° to 10° C., 186 g (2.4 moles) of a 40% strength aqueous methylamine solution is dripped into a solution of 232 g (2 moles) of methyl acetoacetate in 150 ml of water. The mixture is then stirred for 12 hours at room temperature (20° C.). The product is then separated from the solution by suction filtration. After washing with ice water and drying under reduced pressure, there is obtained 212 g (82%) of a white solid; m.p.: 62°-63° C.

reactant | methylamine | CN | CH5N
reactant | methyl acetoacetate | 2 moles, 232 g | C(CC(=O)C)(=O)OC | C5H8O3
solvent | water | 150 ml | O | H2O
product | Methyl methylaminocrotonate | 212 g, 82% | CN/C(/C(=O)OC)=C\C | C6H11NO2
